US07723369B2
To a solution of 5-(3-amino-phenyl)-1,1-dioxo-[1,2,5]thiadiazolidin-3-one (5 g, 22 mmol) in 37.5 mL of 9:1 v/v acetonitrile-water was added NaHCO3 (4.62 g, 55 mmol). The mixture was stirred at 25° C. while 2-bromo-1-(2,4-dichloro-phenyl)-ethanone (7.1 g, 26.4 mmol) was added. The mixture was stirred for 12-16 hours at 35° C. The mixture was cooled on an ice bath to further precipitate the product, which was then collected by filtration. The filtrate was concentrated under reduced pressure and a second crop of crude product was collected. The combined crude product washed once with 25 mL water and dried, then washed once with 10 mL methyl tert-butyl ether and dried, to provide 6.36 g (70% yield) of 5-{3-[2-(2,4-dichloro-phenyl)-2-oxo-ethylamino]-phenyl}-1,1-dioxo-[1,2,5]thiadiazolidin-3-one.

reactant | 5-(3-amino-phenyl)-1,1-dioxo-[1,2,5]thiadiazolidin-3-one | 22 mmol, 5 g | NC=1C=C(C=CC1)N1CC(NS1(=O)=O)=O | C8H9N3O3S
reactant | NaHCO3 | 55 mmol, 4.62 g | C(=O)(O)[O-].[Na+]
reactant | 2-bromo-1-(2,4-dichloro-phenyl)-ethanone | 26.4 mmol, 7.1 g | BrCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5BrCl2O
solvent | acetonitrile water | C(C)#N.O
product | 5-{3-[2-(2,4-dichloro-phenyl)-2-oxo-ethylamino]-phenyl}-1,1-dioxo-[1,2,5]thiadiazolidin-3-one | 6.36 g, 70% yield | ClC1=C(C=CC(=C1)Cl)C(CNC=1C=C(C=CC1)N1CC(NS1(=O)=O)=O)=O | C16H13Cl2N3O4S
